US08975415B2
To a mixture of 6-bromo-3,3-bis(hydroxymethyl)-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one (6.76 g, 21.4 mmol), zinc bis(dimethyldithiocarbamate) (26.2 g, 85.8 mmol) and triphenylphosphine (8.44 g, 32.2 mmol) in THF (0.20 L) was added diisopropyl azodicarboxylate (1.9 M solution in toluene, 16.9 mL, 32.2 mmol) in an ice-water bath. The mixture was stirred overnight at ambient temperature. The mixture was diluted with toluene (0.20 L), and the mixture was filtered off. The filtrate was washed with 1 M aqueous NaOH (three times), water and brine, dried over MgSO4 and filtered. The filtrate was evaporated to give a crude product. The crude product was purified with column chromatography on silica gel (Hexane-EtOAc, a linear gradient of EtOAc from 0 to 20%) to afford 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,3′-oxetan]-4-one (2.22 g).

reactant | 6-bromo-3,3-bis(hydroxymethyl)-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one | 21.4 mmol, 6.76 g | BrC=1C=C2C(C(C(OC2=CC1)(C)C)(CO)CO)=O | C13H15BrO4
reactant | triphenylphosphine | 32.2 mmol, 8.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 32.2 mmol, 1.9 M, 16.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 0.20 L | C1CCOC1 | C4H8O
solvent | toluene | 0.20 L | C1(=CC=CC=C1)C | C7H8
catalyst | zinc bis(dimethyldithiocarbamate) | 85.8 mmol, 26.2 g | CN(C([S-])=S)C.CN(C([S-])=S)C.[Zn+2]
product | 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,3′-oxetan]-4-one | 2.22 g | BrC=1C=C2C(C3(COC3)C(OC2=CC1)(C)C)=O | C13H13BrO3
